US09120749B2
ethyl 2-(((4-bromophenyl)amino)methylene)-3-oxopentanoate
A stirred mixture of ethyl propionylacetate (33 g, 0.23 mol), triethyl orthoformate (46 mL, 0.28 mol), and 4-bromoaniline (42 g, 0.24 mol) were heated at 150° C. for 2 h with a Dean Stark trap. The reaction was cooled to room temperature. Trituration with 1:1 hexanes/diethyl ether afforded the desired product (25.1 g, 33%) as a tan solid: 1H NMR (300 MHz, DMSO-d6) δ 12.44 (d, J=13.1 Hz, 1H), 8.42 (d, J=13.1 Hz 1H), 7.64-7.51 (m, 2H), 7.50-7.34 (m, 2H), 4.17 (q, J=7.1 Hz, 2H), 2.86 (q, J=7.3 Hz, 2H), 1.27 (t, J=7.1 Hz, 3H), 1.02 (t, J=7.3 Hz, 3H).

reactant | ethyl propionylacetate | 0.23 mol, 33 g | C(CC)(=O)CC(=O)OCC | C7H12O3
reactant | triethyl orthoformate | 0.28 mol, 46 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | 4-bromoaniline | 0.24 mol, 42 g | BrC1=CC=C(N)C=C1 | C6H6BrN
product | ethyl 2-(((4-bromophenyl)amino)methylene)-3-oxopentanoate | 25.1 g, 33% | BrC1=CC=C(C=C1)NC=C(C(=O)OCC)C(CC)=O | C14H16BrNO3
